US07091353B2
A mixture of 2-azido-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}acetamide (1.2 g, 3.24 mmol), and 10% Pd/C (0.15 g) in 4N HCl (20 ml) and CH3OH (50 ml) was hydrogenated in Parr shake apparatus under 50 psi of hydrogen for 3 hours. The mixture was then filtered through celite and the filtrate was concentrated to a solid residue. The solid was slurried in ethanol (20 ml) and the suspension filtered to give 2-amino-N-{[2-(2,6-dioxo(3-piperidyl))1,3-dioxoisoindolin-4-yl]methyl}acetamide hydrochloride (0.86 g, 84%) as a white solid: mp 270–272° C.; 1H NMR (DMSO-d6) δ d 11.16 (s, 1H), 9.28 (t, J=5.7 Hz, 1H), 8.33 (s, 3H), 7.83 (s, 3H), 5.20–5.13 (dd, J=5.3 and 12.5 Hz, 1H), 4.81 (d, J=5.7 Hz, 2H), 3.69 (s, 2H), 2.92–2.87 (m, 1H), 2.65–2.51 (m, 2H), 2.09–2.05 (m, 1H); 13C NMR (DMSO-d6) δ d 172.76, 169.80, 167.44, 166.91, 166.52, 138.24, 134.74, 133.53, 131.51, 127.17, 122.08, 48.89, 37.89, 30.94, 21.99; Anal. Calcd. For C16H17N4O5Cl: C, 50.47; H, 4.50; N, 14.71; Cl, 9.31. Found: C, 50.39; H, 4.61; N, 14.42; Cl, 9.25.

reactant | 2-azido-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}acetamide | 3.24 mmol, 1.2 g | N(=[N+]=[N-])CC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C16H14N6O5
reactant | hydrogen | [H][H] | H2
reactant | HCl | 4N, 20 ml | Cl | ClH
solvent | CH3OH | 50 ml | CO | CH4O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 2-amino-N-{[2-(2,6-dioxo(3-piperidyl))1,3-dioxoisoindolin-4-yl]methyl}acetamide hydrochloride | 0.86 g, 84% | Cl.NCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | InChI=1S/C16H16N4O5.ClH/c17-6-12(22)18-7-8-2-1-3-9-13(8)16(25)20(15(9)24)10-4-5-11(21)19-14(10)23;/h1-3,10H,4-7,17H2,(H,18,22)(H,19,21,23);1H
